US07176217B2
To a solution of ethyl (3R)-2-azabicyclo[2.2.2]octane-3-carboxylate (362 mg, 1.97 mmol) in chloroform (4.0 ml) were added triethylamine (0.30 ml, 2.17 mmol) and 4-methoxybenzenesulfonyl chloride(448 mg, 2.17 mmol) while being cooled with ice. After a reaction at room temperature for 2 hours, the reaction mixture was washed with 1N hydrochloric acid, saturated sodium bicarbonate water and saturated brine successively, and dried over magnesium sulfate. The solvent was evaporated and the residue was recrystallized (hexane/ethyl acetate), to give ethyl (3R)-2-[(4-methoxyphenyl)sulfonyl]-2-azabicyclo[2.2.2]octane-3-carboxylate (261 mg). Further, mother liquid was concentrated, and the resulting residue was purified by silica gel column chromatography (1%–5% methanol/chloroform), to give the same compound (137 mg, total 399 mg, 57%).

reactant | ethyl (3R)-2-azabicyclo[2.2.2]octane-3-carboxylate | 1.97 mmol, 362 mg | C12N[C@H](C(CC1)CC2)C(=O)OCC | C10H17NO2
reactant | triethylamine | 2.17 mmol, 0.30 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 2.17 mmol, 448 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | chloroform | 4.0 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl (3R)-2-[(4-methoxyphenyl)sulfonyl]-2-azabicyclo[2.2.2]octane-3-carboxylate | 261 mg | COC1=CC=C(C=C1)S(=O)(=O)N1C2CCC([C@@H]1C(=O)OCC)CC2 | C17H23NO5S
